US04356118
L-Methionyl-L-valyl-L-tryptophan hydrochloride.
The title compound was prepared using the previously described procedure and the following reagants: t-butyl oxycarbonyl-methionyl-valyl-tryptophan (4.61 grams), 32 milliliters of glacial acetic acid and 17.5 ml (106.2 mmoles) 6.07 N hydrochloric acid in dioxane. Yield is 3.2 grams. Analysis calculated for C21H30N4O4S.HCL.H2O: C, 51.57; H, 6.80; N, 11.46. Found: C, 51.29; H, 6.59; N,-11.72.

reactant | t-butyl oxycarbonyl-methionyl-valyl-tryptophan | 4.61 grams | C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C26H38N4O6S
reactant | acetic acid | 32 milliliters | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 106.2 mmoles, 6.07 N, 17.5 ml | Cl | ClH
reactant | H2O | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | L-Methionyl-L-valyl-L-tryptophan hydrochloride | Cl.N[C@@H](CCSC)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | InChI=1S/C21H30N4O4S.ClH/c1-12(2)18(25-19(26)15(22)8-9-30-3)20(27)24-17(21(28)29)10-13-11-23-16-7-5-4-6-14(13)16;/h4-7,11-12,15,17-18,23H,8-10,22H2,1-3H3,(H,24,27)(H,25,26)(H,28,29);1H/t15-,17-,18-;/m0./s1
